US03954754
EXAMPLE 3: 5,6,7,8,9,10-Hexahydro-3-(1-methylhydrazino) cycloocta[c]pyridazine
A suspension of 9.8 g of 3-chloro-5,6,7,8,9,10-hexahydrocycloocta[c]pyridazine in 50 cc of methylhydrazine is stirred in an oil bath of 45° for 24 hours. The material dissolves completely during heating. After the reaction is complete, the mixture is evaporated to dryness, and the crude crystalline title compound is recrystallized twice from ether. The title compound has a M.P. of 78°-79° (decomp.).

reactant | 3-chloro-5,6,7,8,9,10-hexahydrocycloocta[c]pyridazine | 9.8 g | ClC1=CC2=C(N=N1)CCCCCC2 | C10H13ClN2
reactant | methylhydrazine | 50 cc | CNN | CH6N2
product | 5,6,7,8,9,10-Hexahydro-3-(1-methylhydrazino) cycloocta[c]pyridazine | CN(N)C1=CC2=C(N=N1)CCCCCC2 | C11H18N4
